US06498159B1
800 ml solution of 25.0 g tert-butyl 4-oxo-1-piperidinecarboxylate in diethyl ether was cooled in ice/methanol, and 138 ml solution of allylmagnesium bromide (1 M in diethyl ether) was added dropwise thereinto. The reaction mixture was stirred for 3 hr and 10 min. The reaction solution was poured into a mixture of saturated aqueous ammonium chloride and ice. The diethyl ether layer was recovered and washed with brine. It was dried over anhydrous magnesium sulfate, and then filtered. The filtrate was evaporated, and the resulting residue was purified by silica gel column chromatography to give 15.9 g of tert-butyl 4-allyl-4-hydroxy-1-piperidinecarboxylate.

reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 25.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | allylmagnesium bromide | 1 M | C(C=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-butyl 4-allyl-4-hydroxy-1-piperidinecarboxylate | 15.9 g | C(C=C)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C13H23NO3
